US03931232
Dehydration by distillation from a few drops of 20% aqueous sulfuric acid gives a mixture of 5-(1,2-dimethyldec-1-enyl)resorcinol dimethyl ether and 5-(1-methylenyl-2-methyldecyl)resorcinol dimethyl ether which is hydrogenated over 10% palladium-on-carbon in absolute ethanol at 50 p.s.i. and 25° to give 5-(1,2-dimethyldecyl)-resorcinol dimethyl ether.

reactant | 5-(1,2-dimethyldec-1-enyl)resorcinol dimethyl ether | COC1=CC(OC)=CC(=C1)C(=C(CCCCCCCC)C)C | C20H32O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 5-(1,2-dimethyldecyl)-resorcinol dimethyl ether | COC1=CC(OC)=CC(=C1)C(C(CCCCCCCC)C)C | C20H34O2
